US06958327B1
1.2 11β-Fluoro-3-mesyloxy-estra-1,3,5(10)-trien-17-one
28.84 g of 11β-fluoro-1,3,5(10)-estratrien-3-ol-17-one (100 mmol) is dissolved in 200 ml of pyridine, cooled in an ice bath, 20 ml of methanesulfonic acid chloride is added in drops, and it is stirred for 2 hours at room temperature. Then, it is stirred into 2.5 liters of ice water, and after two hours of stirring, it is filtered off. The solid residue is dissolved in dichloromethane, the solution is shaken out with 1N hydrochloric acid, water and saturated common salt solution and dried with Na2SO4. After the solvent is drawn off, the residue is 37 g, and after crystallization from methanol, 33.6 g of 11β-fluoro-3-mesyloxy-estra-1,3,5(10)-trien-17-one (91% of theory), flash point, is obtained.

reactant | 11β-fluoro-1,3,5(10)-estratrien-3-ol-17-one | 100 mmol, 28.84 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)O | C18H21FO2
reactant | methanesulfonic acid chloride | 20 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 11β-Fluoro-3-mesyloxy-estra-1,3,5(10)-trien-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)OS(=O)(=O)C | C19H23FO4S
